US07456164B2
Intermediate 22: Methanesulfonic acid 1-cyclopentyl-piperidin-4-yl ester
1-Cyclopentyl-4-hydroxypiperidine (1 g, 5.91 mmol), DCM (10 ml) and triethylamine (0.91 ml, 6.5 mmol) were cooled to 0-5° C. and mesyl chloride (0.46 ml, 5.91 mmol) was added dropwise under N2. The reaction was allowed to warm to room temperature and stirred for 1 hour. The reaction was quenched with sat. NaHCO3 (20 ml) and the aqueous phase extracted with DCM (2×5 ml). The combined organic extracts were dried over MgSO4, filtered, washed with DCM and concentrated in vacuo to give the title compound (1.38 g, 95%) as a pale yellow oil.

reactant | 1-Cyclopentyl-4-hydroxypiperidine | 5.91 mmol, 1 g | C1(CCCC1)N1CCC(CC1)O | C10H19NO
reactant | triethylamine | 6.5 mmol, 0.91 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 5.91 mmol, 0.46 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 1-cyclopentyl-piperidin-4-yl ester | 1.38 g, 95% | C1(CCCC1)N1CCC(CC1)OS(=O)(=O)C | C11H21NO3S
